US07659288B2
5-[N-(3-Chloropropyl)N-methylamino]-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylthiopyrazole
1-Bromo-3-chloropropane (1.62 g, 1.6 mmol) was added to a mixture of 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-methylamino-4-trifluoromethylthiopyrazole (3.0 g, 6.9 mmol) and sodium hydride (0.35 g, 8.9 mmol) in tetrahydrofuran (45 ml) under a nitrogen atmosphere, and the mixture heated under reflux for 6 hours. After extractive workup (heptane-ethyl acetate, water) and chromatography the title product was obtained as a solid (1.83 g); 1H-NMR: 1.81 (2H), 2.88 (3H), 3.21 (2H), 3.37 (2H), 7.80 (2H); 19F-NMR: −44.8; −64.2 ppm.

reactant | 1-Bromo-3-chloropropane | 1.6 mmol, 1.62 g | BrCCCCl | C3H6BrCl
reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-methylamino-4-trifluoromethylthiopyrazole | 6.9 mmol, 3.0 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1NC)SC(F)(F)F)C#N | C13H6Cl2F6N4S
reactant | sodium hydride | 8.9 mmol, 0.35 g | [H-].[Na+]
reactant | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-[N-(3-Chloropropyl)N-methylamino]-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylthiopyrazole | ClCCCN(C)C1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SC(F)(F)F | C16H11Cl3F6N4S
